2120-05-20 12:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2120-5-19**] 09:21 AM
 MULTI LUMEN - START [**2120-5-19**] 10:18 PM
 EKG - At [**2120-5-20**] 12:03 AM
   Failed PS trial yesterday
   R IJ CVL placed
   Hypotensive this am 66/24 received 1L NSS
   ABG 7.45/38/122  lactate 1.9
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2120-5-19**] 06:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2120-5-20**] 06:00 AM
   Infusions:
   Fentanyl - 40 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Phenylephrine - 0.5 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2120-5-19**] 08:00 PM
   Heparin Sodium - [**2120-5-19**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-5-20**] 08:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 140 (86 - 140) bpm
   BP: 90/37(54) {86/34(53) - 151/136(329)} mmHg
   RR: 22 (15 - 22) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 71 Inch
    CVP: 16 (8 - 23)mmHg
   Total In:
                                                                  5,216 mL
                                                                  4,346 mL
   PO:
   TF:
                                                                    131 mL
   IVF:
                                                                  5,116 mL
                                                                  4,215 mL
   Blood products:
   Total out:
                                                                  2,515 mL
                                                                  1,415 mL
   Urine:
                                                                  2,515 mL
                                                                  1,415 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,701 mL
                                                                  2,931 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   Vt (Set): 600 (550 - 600) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: Agitated
   PIP: 37 cmH2O
   Plateau: 24 cmH2O
   Compliance: 37.5 cmH2O/mL
   SpO2: 96%
   ABG: 7.45/38/122/26/3
   Ve: 11.7 L/min
   PaO2 / FiO2: 305
   Physical Examination
   Gen: NAD
   Lungs:  Bilateral wheezing
   CV: Tachycardic, no M/R/G
   Abd: distended, decreased bowel sounds, enlarged liver
   Extremities: 2+ bilateral LE edema
   Labs / Radiology
   412 K/uL
   8.6 g/dL
   120 mg/dL
   1.5 mg/dL
   26 mEq/L
   4.3 mEq/L
   41 mg/dL
   107 mEq/L
   140 mEq/L
   26.4 %
   13.4 K/uL
        [image002.jpg]
                             [**2120-5-19**]  04:27 AM
                             [**2120-5-19**]  10:28 AM
                             [**2120-5-19**]  02:48 PM
                             [**2120-5-19**]  03:13 PM
                             [**2120-5-19**]  05:45 PM
                             [**2120-5-19**]  07:35 PM
                             [**2120-5-19**]  09:09 PM
                             [**2120-5-19**]  10:52 PM
                             [**2120-5-20**]  05:50 AM
                             [**2120-5-20**]  05:53 AM
   WBC
   13.4
   Hct
   26.4
   Plt
   412
   Cr
   1.6
   1.5
   1.5
   TropT
   0.01
   TCO2
   30
   28
   27
   27
   26
   26
   27
   Glucose
   99
   120
   Other labs: PT / PTT / INR:14.7/28.3/1.3, CK / CKMB /
   Troponin-T:194/5/0.01, ALT / AST:34/90, Alk Phos / T Bili:153/0.3,
   Amylase / Lipase:46/33, Differential-Neuts:94.0 %, Band:0.0 %,
   Lymph:4.1 %, Mono:1.2 %, Eos:0.7 %, Lactic Acid:1.9 mmol/L, Albumin:2.9
   g/dL, LDH:7972 IU/L, Ca++:7.6 mg/dL, Mg++:2.4 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   A/P: 67 year old male with history COPD (on 3L home O2) and newly
   diagnosed small cell lung cancer with intracranial met who is
   transferred from the oncology floor with progressive altered mental
   status and hypercarbic respiratory failure.
   .
   # Respiratory failure. Hypercarbic respiratory failure. Possibly
   secondary to COPD flare. This may also be secondary to altered mental
   status and hypoventilation.
   - Already on steroids.
   - Expand antibiotic coverage to possible hospital acquired organisms,
   including double coverage for pseudomonas: Vanc, zosyn, levo
   - Follow cultures
   - Continue albuterol, ipratropium nebs and steroid inhaler.
   - Continue mechanical ventilation.
   .
   # Altered mental status. Multiple possible etiologies. Hypercapnia as
   above from COPD exacerbation could be driving altered mental status.
   Intracranial hemorrhage in the setting of known intracranial metastatic
   disease is possible. A paradoxic medication effect including possible
   benzo intoxication/paradoxic effect or steroid psychosis are possible.
   - Treat pulmonary issues as above.
   - Noncontrast head CT to rule out intracranial hemorrhage ([**2120-5-19**])
   showed no change.
   - Limit sedating medications as much as possible.
   .
   # Small cell lung cancer. Widely metastatic to bone, liver and brain.
   - Day [**1-22**] carboplatin/etopiside with dexamethasone was [**2120-5-19**].
   - Continue allopurinol prophylaxis.
   - Neuro checks q4h.
   - Seizure prophylaxis with keppra, 500mg x3 days, 750mg x3 days then
   1000mg.
   - Expected XRT of brain met when stable.
   - Continue to be followed by oncology
   .
   # Leukocytosis. Likely in part secondary to steroids. Also a component
   of infection secondary to post-obstructive.
   - Trend WBC.
   .
   # Acute on chronic kidney failure. FeUrea 23% suggestive of pre-renal
   etiology. Platinum agents can also cause renal failure.
   - Maintain U output at 150cc/hr for possible tumor lysis component.
   .
   # Recurring rectal prolapse. Stable. Monitor for signs of recurrence.
   Surgical repair not indicated at this time.
   # COPD. Continue albuterol and ipratropium nebs with steroid inhaler.
   .
   # CAD s/p MI. No signs of acute MI.
   - Hold aspirin while ruling out possible acute intracranial hemorrhage.
   - Hold beta-blocker in the setting of relative hypotension.
   - Continue statin therapy.
   - Continue holding plavix (bleeding risk) and valsartan (ARF) therapy.
   .
   # Prophylaxis: Pneumoboots, H2 Blocker, Bowel regimen PRN.
   .
   # FEN: Regular diet.
   .
   # Access: Peripheral IV's.
   .
   # Contact: [**Name (NI) **], wife [**Telephone/Fax (1) 790**]
   .
   # Code:Full
   .
   # Dispo: ICU.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2120-5-20**] 12:00 AM 20 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2120-5-19**] 02:21 AM
   Arterial Line - [**2120-5-19**] 09:21 AM
   Multi Lumen - [**2120-5-19**] 10:18 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2120-05-21 07:45:00 Physician Resident Progress Note
Chief Complaint: hypotension
   24 Hour Events:
 ULTRASOUND - At [**2120-5-20**] 09:26 AM
   lenis done
   constipation improved with increased lactulose
   phenylephrine continued to maintain BP
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2120-5-20**] 09:08 AM
   Levofloxacin - [**2120-5-20**] 10:08 AM
   Piperacillin/Tazobactam (Zosyn) - [**2120-5-20**] 11:29 PM
   Infusions:
   Fentanyl - 60 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Phenylephrine - 0.6 mcg/Kg/min
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2120-5-20**] 08:30 PM
   Heparin Sodium - [**2120-5-20**] 09:51 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-5-21**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.6
C (97.8
   HR: 88 (79 - 140) bpm
   BP: 113/59(78) {71/28(43) - 143/65(92)} mmHg
   RR: 20 (17 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
    CVP: 11 (9 - 18)mmHg
   Total In:
                                                                  7,682 mL
                                                                    811 mL
   PO:
   TF:
                                                                    532 mL
                                                                    300 mL
   IVF:
                                                                  6,620 mL
                                                                    311 mL
   Blood products:
   Total out:
                                                                  4,630 mL
                                                                  1,660 mL
   Urine:
                                                                  3,730 mL
                                                                  1,110 mL
   NG:
   Stool:
                                                                    900 mL
                                                                    550 mL
   Drains:
   Balance:
                                                                  3,052 mL
                                                                   -849 mL
   Respiratory support
   Ventilator mode: PCV+Assist
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 64
   PIP: 33 cmH2O
   SpO2: 96%
   ABG: 7.39/41/99.[**Numeric Identifier 126**]/25/0
   Ve: 4.7 L/min
   PaO2 / FiO2: 248
   Physical Examination
   Gen: NAD
   Lungs: intubated, mild bilateral wheezing
   CV: RRR, no M/R/G
   Abd: increased bs, distended, less firm
   Extremities: warm, bounding radial pulses, 1+ pedal pulses
   Labs / Radiology
   Sputum [**2120-5-20**] G+cocci in pairs and clusters, 1+ budding yeast, cx
   pending
   C. diff ([**2120-5-20**]): pending
   Blood Cx ([**2120-5-20**]): pending
   395 K/uL
   8.5 g/dL
   141 mg/dL
   1.3 mg/dL
   25 mEq/L
   5.1 mEq/L
   32 mg/dL
   110 mEq/L
   142 mEq/L
   26.6 %
   14.8 K/uL
        [image002.jpg]
                             [**2120-5-19**]  03:13 PM
                             [**2120-5-19**]  05:45 PM
                             [**2120-5-19**]  07:35 PM
                             [**2120-5-19**]  09:09 PM
                             [**2120-5-19**]  10:52 PM
                             [**2120-5-20**]  05:50 AM
                             [**2120-5-20**]  05:53 AM
                             [**2120-5-20**]  04:14 PM
                             [**2120-5-21**]  03:11 AM
                             [**2120-5-21**]  03:27 AM
   WBC
   13.4
   14.8
   Hct
   26.4
   26.6
   Plt
   412
   395
   Cr
   1.5
   1.5
   1.3
   1.3
   TCO2
   27
   27
   26
   26
   27
   26
   Glucose
   120
   121
   141
   Other labs: PT / PTT / INR:14.7/28.3/1.3, CK / CKMB /
   Troponin-T:194/5/0.01, ALT / AST:34/90, Alk Phos / T Bili:153/0.3,
   Amylase / Lipase:46/33, Differential-Neuts:94.0 %, Band:0.0 %,
   Lymph:4.1 %, Mono:1.2 %, Eos:0.7 %, Lactic Acid:1.9 mmol/L, Albumin:2.9
   g/dL, LDH:9465 IU/L, Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   A/P: 67 year old male with history COPD (on 3L home O2) and newly
   diagnosed small cell lung cancer with intracranial met who is
   transferred from the oncology floor with progressive altered mental
   status and hypercarbic respiratory failure.
   #Hypotension: currently on phenylephrine drip; currently dependent on
   pressors but attempt to wean off phenylephrine today if possible.
   - Order nonconstrast CT chest/abdomen to determine extent of lung
   pathology and to rule-out vessel compression as a cause of low blood
   pressure.
   # Respiratory failure. Hypercarbic respiratory failure. Possibly
   secondary to COPD flare. This may also be secondary to altered mental
   status and hypoventilation.
   - Already on steroids.
   - Continue broad spectrum antibiotics with double coverage for
   pseudomonas: Vanc, zosyn, levo
   - Follow cultures
   - Continue albuterol, flovent, ipratropium nebs, and steroid inhaler.
   - Attempted switch to CPAP this am without success. Continue pressure
   control mechanical ventilation.
   # Altered mental status. Multiple possible etiologies. Hypercapnia as
   above from COPD exacerbation could be driving altered mental status.
   Intracranial hemorrhage in the setting of known intracranial metastatic
   disease is possible. A paradoxic medication effect including possible
   benzo intoxication/paradoxic effect or steroid psychosis are possible.
   - Treat pulmonary issues as above.
   - Noncontrast head CT ([**2120-5-19**]): no intracranial hemorrhage
   - Limit sedating medications as much as possible.
   .
   # Small cell lung cancer. Widely metastatic to bone, liver and brain.
   - Day [**1-22**] carboplatin/etopiside with dexamethasone was [**2120-5-19**].
   - Continue allopurinol prophylaxis.
   - Neuro checks q4h.
   - Seizure prophylaxis with keppra, 500mg x3 days, 750mg x3 days then
   1000mg.
   - Continue to be followed by oncology
   .
   # Leukocytosis. Likely in part secondary to steroids. Also a component
   of infection secondary to post-obstructive.
   - Trend WBC with expectation that WBC will drop with response to recent
   chemo.
   .
   # Acute on chronic kidney failure. FeUrea 23% suggestive of pre-renal
   etiology. Platinum agents can also cause renal failure.
   - Maintain U output at 150cc/hr for possible tumor lysis component.
   .
   # Recurring rectal prolapse. Stable. Monitor for signs of recurrence.
   Surgical repair not indicated at this time.  Continue treating
   constipation with increased dose of lactulose.
   # COPD. Continue albuterol and ipratropium nebs with steroid inhaler.
   .
   # CAD s/p MI. No signs of acute MI.
   - Hold beta-blocker in the setting of relative hypotension.
   - Continue statin therapy.
   - Continue holding plavix (bleeding risk) and valsartan (ARF) therapy.
   .
   # Prophylaxis: Pneumoboots, H2 Blocker, Bowel regimen PRN.
   # FEN: Regular diet.
   # Access: Peripheral IV's.
   # Code Status: DNR/DNI
   # Contact: [**Name (NI) **], wife [**Telephone/Fax (1) 790**]
   -    Meet with family to day to discuss goals of therapy
   -    Schedule a family meeting to discuss initiating CMO care ([**2120-5-22**]
   13:00)
   # Dispo: ICU.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2120-5-20**] 12:00 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2120-5-19**] 09:21 AM
   Multi Lumen - [**2120-5-19**] 10:18 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2120-05-22 06:55:00 Physician Resident Progress Note
Chief Complaint: hypotension
   24 Hour Events:
   Discussed goals of therapy with family [**2120-5-21**].  Pt was made DNR/DNI.
   Will have meeting today with family to discuss withdrawal of care.
   CT chest [**2120-5-21**]: Large left sided pleural effusion. Small right sided
   pleural effusion.  Large left hilar mass with resultant bronchial
   obstruction. Confluent liver metastases. Large right paratracheal lymph
   node with mass effect on the SVC.
   C.diff toxin [**2120-5-21**]: negative
   Decreased requirement for phenylephrine for treatment of hypotension.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2120-5-20**] 10:08 AM
   Piperacillin/Tazobactam (Zosyn) - [**2120-5-21**] 12:00 PM
   Vancomycin - [**2120-5-21**] 07:56 PM
   Infusions:
   Phenylephrine - 0.25 mcg/Kg/min
   Fentanyl - 85 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Heparin Sodium - [**2120-5-21**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-5-22**] 06:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.2
C (97.2
   HR: 71 (68 - 118) bpm
   BP: 99/51(66) {91/44(60) - 163/87(106)} mmHg
   RR: 20 (18 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.6 kg (admission): 77.8 kg
   Height: 71 Inch
    CVP: 5 (5 - 19)mmHg
   Total In:
                                                                  3,083 mL
                                                                    740 mL
   PO:
   TF:
                                                                    920 mL
                                                                    320 mL
   IVF:
                                                                  1,463 mL
                                                                    220 mL
   Blood products:
   Total out:
                                                                  5,400 mL
                                                                  1,100 mL
   Urine:
                                                                  4,050 mL
                                                                    800 mL
   NG:
   Stool:
                                                                  1,350 mL
                                                                    300 mL
   Drains:
   Balance:
                                                                 -2,317 mL
                                                                   -359 mL
   Respiratory support
   Ventilator mode: PCV+/PSV
   Vt (Spontaneous): 109 (50 - 657) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 33 cmH2O
   SpO2: 99%
   ABG: ////
   Ve: 11.8 L/min
   Physical Examination
   Gen: NAD, opens eyes and makes eye contact, more sedated this morning
   (per nurse)
   CV: distant heart sounds
   Lungs: bilateral coarse breath sounds, intubated pressure control
   ventilation
   Abd: firm, distended, +bs
   Extremities: 2+ edema in UE bilaterally, all extremities warm, 1+ pedal
   pulses
   Labs / Radiology
   CT chest [**2120-5-21**]: Large left sided pleural effusion. Small right sided
   pleural effusion.  Large left hilar mass with resultant bronchial
   obstruction. Confluent liver metastases. Large right paratracheal lymph
   node with mass effect on the SVC.
   C. diff toxin [**2120-5-21**]: negative
   Sputum [**2120-5-20**]: Gram stain G+cocci, and budding yeast; cx pending
   Blood cx [**2120-5-20**]: pending
   395 K/uL
   8.5 g/dL
   141 mg/dL
   1.3 mg/dL
   25 mEq/L
   5.1 mEq/L
   32 mg/dL
   110 mEq/L
   142 mEq/L
   26.6 %
   14.8 K/uL
        [image002.jpg]
                             [**2120-5-19**]  03:13 PM
                             [**2120-5-19**]  05:45 PM
                             [**2120-5-19**]  07:35 PM
                             [**2120-5-19**]  09:09 PM
                             [**2120-5-19**]  10:52 PM
                             [**2120-5-20**]  05:50 AM
                             [**2120-5-20**]  05:53 AM
                             [**2120-5-20**]  04:14 PM
                             [**2120-5-21**]  03:11 AM
                             [**2120-5-21**]  03:27 AM
   WBC
   13.4
   14.8
   Hct
   26.4
   26.6
   Plt
   412
   395
   Cr
   1.5
   1.5
   1.3
   1.3
   TCO2
   27
   27
   26
   26
   27
   26
   Glucose
   120
   121
   141
   Other labs: PT / PTT / INR:14.7/28.3/1.3, CK / CKMB /
   Troponin-T:194/5/0.01, ALT / AST:34/90, Alk Phos / T Bili:153/0.3,
   Amylase / Lipase:46/33, Differential-Neuts:94.0 %, Band:0.0 %,
   Lymph:4.1 %, Mono:1.2 %, Eos:0.7 %, Lactic Acid:1.9 mmol/L, Albumin:2.9
   g/dL, LDH:9465 IU/L, Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   A/P: 67 year old male with history COPD (on 3L home O2) and newly
   diagnosed small cell lung cancer with intracranial met who is
   transferred from the oncology floor with progressive altered mental
   status and hypercarbic respiratory failure.
   #Hypotension: currently on phenylephrine drip; currently dependent on
   pressors but attempt to wean off phenylephrine today if possible.
   - Order nonconstrast CT chest/abdomen to determine extent of lung
   pathology and to rule-out vessel compression as a cause of low blood
   pressure.
   # Respiratory failure. Hypercarbic respiratory failure. Possibly
   secondary to COPD flare. This may also be secondary to altered mental
   status and hypoventilation.
   - Already on steroids.
   - Continue broad spectrum antibiotics with double coverage for
   pseudomonas: Vanc, zosyn, levo
   - Follow cultures
   - Continue albuterol, flovent, ipratropium nebs, and steroid inhaler.
   - Attempted switch to CPAP this am without success. Continue pressure
   control mechanical ventilation.
   # Altered mental status. Multiple possible etiologies. Hypercapnia as
   above from COPD exacerbation could be driving altered mental status.
   Intracranial hemorrhage in the setting of known intracranial metastatic
   disease is possible. A paradoxic medication effect including possible
   benzo intoxication/paradoxic effect or steroid psychosis are possible.
   - Treat pulmonary issues as above.
   - Noncontrast head CT ([**2120-5-19**]): no intracranial hemorrhage
   - Limit sedating medications as much as possible.
   .
   # Small cell lung cancer. Widely metastatic to bone, liver and brain.
   - Day [**1-22**] carboplatin/etopiside with dexamethasone was [**2120-5-19**].
   - Continue allopurinol prophylaxis.
   - Neuro checks q4h.
   - Seizure prophylaxis with keppra, 500mg x3 days, 750mg x3 days then
   1000mg.
   - Continue to be followed by oncology
   .
   # Leukocytosis. Likely in part secondary to steroids. Also a component
   of infection secondary to post-obstructive.
   - Trend WBC with expectation that WBC will drop with response to recent
   chemo.
   .
   # Acute on chronic kidney failure. FeUrea 23% suggestive of pre-renal
   etiology. Platinum agents can also cause renal failure.
   - Maintain U output at 150cc/hr for possible tumor lysis component.
   .
   # Recurring rectal prolapse. Stable. Monitor for signs of recurrence.
   Surgical repair not indicated at this time.  Continue treating
   constipation with increased dose of lactulose.
   # COPD. Continue albuterol and ipratropium nebs with steroid inhaler.
   .
   # CAD s/p MI. No signs of acute MI.
   - Hold beta-blocker in the setting of relative hypotension.
   - Continue statin therapy.
   - Continue holding plavix (bleeding risk) and valsartan (ARF) therapy.
   .
   # Prophylaxis: Pneumoboots, H2 Blocker, Bowel regimen PRN.
   # FEN: Regular diet.
   # Access: Peripheral IV's.
   # Code Status: DNR/DNI
   # Contact: [**Name (NI) **], wife [**Telephone/Fax (1) 790**]
   -    Meet with family to day to discuss goals of therapy
   -    Schedule a family meeting to discuss initiating CMO care ([**2120-5-22**]
   13:00)
   # Dispo: ICU.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2120-5-21**] 11:42 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2120-5-19**] 09:21 AM
   Multi Lumen - [**2120-5-19**] 10:18 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: